US08497281B2
(3-Amino-4-fluoro-phenyl)-(cis-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
The title compound is prepared from 3-amino-4-fluoro-benzoic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate is used]. Yield: 68% of theory; LC (method 4): tR=1.91 min; Mass spectrum (ESI+): m/z=311 [M+H]+.

reactant | 3-amino-4-fluoro-benzoic acid | NC=1C=C(C(=O)O)C=CC1F | C7H6FNO2
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (3-Amino-4-fluoro-phenyl)-(cis-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | Yield: 68% | NC=1C=C(C=CC1F)C(=O)N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C19H19FN2O
